US07084155B2
AMD9686: (1H-Benzimidazol-2-ylmethyl)-(3-{[(1-phenyl-ethyl)-pyridin-2-ylmethyl-amino]-methyl}-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (hydrobromide salt)
Using general procedure B: Reaction of Pyridine-2-carbaldehyde (22 mg, 0.20 mmol, (1H-Benzimidazol-2-ylmethyl)-{3-[(1-phenyl-ethylamino)-methyl]-benzyl}-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (101 mg, 0.20 mmol) and sodium triacetoxyborohydride (58 mg, 0.26 mmol) in CH2Cl2 (2 mL) at room temperature under N2 for 20 h, followed by purification of the crude material by chromatography on silica gel (2:2:96 CH3OH—NH3 H2O—CH2Cl2) afforded the title compound (60 mg, 50%) as a white foam.

reactant | Pyridine-2-carbaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | (1H-Benzimidazol-2-ylmethyl)-{3-[(1-phenyl-ethylamino)-methyl]-benzyl}-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.20 mmol, 101 mg | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC(=CC=C2)CNC(C)C2=CC=CC=C2 | C33H35N5
reactant | sodium triacetoxyborohydride | 0.26 mmol, 58 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (1H-Benzimidazol-2-ylmethyl)-(3-{[(1-phenyl-ethyl)-pyridin-2-ylmethyl-amino]-methyl}-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 60 mg, 50% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC(=CC=C2)CN(CC2=NC=CC=C2)C(C)C2=CC=CC=C2 | C39H40N6
